US04028356
In the manner given in Example 1, 2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine in tetrahydrofuran can be treated with 1,3-dichloropropanone under nitrogen to give 2-[[2-chloro-1-(chloromethyl)ethylidene]-hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine.

reactant | 2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | N(N)C1=NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=CC=C2 | C15H13ClN4
reactant | 1,3-dichloropropanone | ClCC(CCl)=O | C3H4Cl2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[[2-chloro-1-(chloromethyl)ethylidene]-hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClCC(CCl)=NNC1=NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=CC=C2 | C18H15Cl3N4
